US04544655
A solution of 82.8 g of methyl 3-[(methoxycarbonylmethyl)sulfamoyl]-5-trifluoromethyl-thiopene-2-carboxylate in 1.7 l of absolute tetrahydrofuran is cooled to 3° and treated portionwise at this temperature for 20 minutes with a total of 62.9 g of potassium tert.butylate. Thereafter, the cooling bath is removed, the viscous red paste is stirred at room temperature for 2 hours and then as much tetrahydrofuran as possible is distilled off in vacuo at a maximum temperature of 30°. The powdery residue is taken up in 1.4 l of ice-water, treated with 10 g of active carbon while stirring and suction filtered over siliceous earth. The filtrate is adjusted to pH 2-3 with about 185 ml of 3N hydrochloric acid at a maximum temperature of 5°. The mixture is stirred for 0.5 hour, whereupon the crude product which initially separates in the form of an oil crystallizes (after the addition of ether). The precipitated crude product is removed by filtration under suction, washed neutral with water, dried at 50° overnight in vacuo and recrystallized from methanol. 4-Hydroxy-3-methoxycarbonyl-6-trifluoromethyl-2H-thieno[2,3-e]-1,2-thiazine 1,1-dioxide of melting point 168°-170° is obtained.

reactant | methyl 3-[(methoxycarbonylmethyl)sulfamoyl]-5-trifluoromethyl-thiopene-2-carboxylate | 82.8 g | COC(=O)CNS(=O)(=O)C1=C(SC(=C1)C(F)(F)F)C(=O)OC | C10H10F3NO6S2
solvent | tetrahydrofuran | 1.7 l | O1CCCC1 | C4H8O
product | 4-Hydroxy-3-methoxycarbonyl-6-trifluoromethyl-2H-thieno[2,3-e]-1,2-thiazine 1,1-dioxide | OC1=C(NS(C2=C1SC(=C2)C(F)(F)F)(=O)=O)C(=O)OC | C9H6F3NO5S2
